US04254129
A mixture of 0.1 mole of 4'-tert-butyl-4-[4-(hydroxydiphenylmethyl)piperidinyl]butyrophenone in 30 ml of trifluoroacetic anhydride is stirred for 4 hours at 0° C., concentrated to a solid, then reduced catalytically in a Paar apparatus usng platinum oxide in 20 ml of methanol until an equivalent amount of hydrogen is taken up to give α-(p-tert-butylphenyl)-4-(α-trifluoroacetoxy-α-phenylbenzy)-1-piperidinebutanol which is treated with a slight excess of thallium trifluoroacetate in 50 ml of trifluoroacetic acid at 72° C. for 3 hours after which 1 equivalent of lead tetra-acetate in 10 ml of trifluoroacetic acid is added. The mixture is stirred for 30 minutes then 1 equivalent of triphenylphosphine is added. Stirring is continued for 30 minutes then the excess solvent is removed at reduced pressure. Cold and dilute (6N) hydrochloric acid (15 ml) is added and the mixture is filtered. The filtrate is made basic using 10% aqueous sodium hydroxide and a minimum amount of ethanol is added to bring about complete solution. The solution is refluxed 4 hours, neutralized with dilute HCl, concentrated, extracted with toluene, dried, filtered and concentrated to give α,α-diphenyl-1-[4-(4-tert-butyl-3-hydroxyphenyl)-4 -hydroxy]butyl-4-piperidinemethanol.

reactant | 4'-tert-butyl-4-[4-(hydroxydiphenylmethyl)piperidinyl]butyrophenone | 0.1 mole | C(C)(C)(C)C1=CC=C(C=C1)C(CCCN1CCC(CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)O)=O | C32H39NO2
reactant | trifluoroacetic anhydride | 30 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | α-(p-tert-butylphenyl)-4-(α-trifluoroacetoxy-α-phenylbenzy)-1-piperidinebutanol | C(C)(C)(C)C1=CC=C(C=C1)C(CCCN1CCC(CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(C(F)(F)F)=O)O | C34H40F3NO3
